US07524969B2
Preparation of 1-{5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl) ethyl]furan-2-yl}pentan-1-one
To a solution of 5-bromo-2-furoic acid (191 mg 1 mmol) in THF (8 ml), was added n-butyllithium in hexanes solution (2.5 M, 1.2 ml, 3 mmol) at −78° C. under a nitrogen atmosphere. The resulting mixture was stirred at −78° C. for 30 minutes. Hexafluoroacetone (1.2 g, 7.3 mmol) was bubbled into the reaction mixture and the resulting solution was stirred for another 30 minutes at −78° C. The reaction mixture was allowed to warm to r.t. and then quenched with H2O. Solvent was evaporated, and the residue was dissolved in EtOAc. The organic layer was washed with H2O and brine, dried (MgSO4) and evaporated. The residue was purified by preparative TLC (hexanes:ethyl acetate, 2:1) to afford the title compound (109 mg) as a yellow oil. 1H NMR δ0.93 (t, 3H), 1.38 (m, 2H), 1.68 (m, 2H), 2.80 (t, 2H), 7.19 (d, 1H), 7.80 (d, 1H); ESIMS: m/z 319 (M+H).

reactant | 5-bromo-2-furoic acid | 1 mmol, 191 mg | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | Hexafluoroacetone | 7.3 mmol, 1.2 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 1-{5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl) ethyl]furan-2-yl}pentan-1-one | 109 mg | FC(C(C(F)(F)F)(O)C1=CC=C(O1)C(CCCC)=O)(F)F | C12H12F6O3
